US07691855B2
[4-(2-Diethylamino-ethoxy)phenyl]-{4-[43-(3-methoxy-phenyl)-1H-pyrazol-4-yl]-pyrimidin-2-yl}-amine
3-Methoxy-benzoic acid ethyl ester is prepared from 3-methoxy-benzoic acid using a standard protocol with ethanol/H2SO4 according to L.-F. Tietze & T. Eicher, Reactions and Syntheses in the Organic Chemistry Laboratory; University Science Books, Mill Valley, Calif., 1989). Title compound: b.p. 151° C. (25 mm Hg); single peak at tR=6.51 min (System 1).

reactant | 3-methoxy-benzoic acid | COC=1C=C(C(=O)O)C=CC1 | C8H8O3
reactant | ethanol H2SO4 | C(C)O.OS(=O)(=O)O
product | 3-Methoxy-benzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)OC)=O | C10H12O3
